US07067517B2
6-(3,4-dichloro-phenoxy)-pyridazin-3-ol
A solution of 3-chloro-6-(3,4-dichloro-phenoxy)-pyridazine (1.74 g, 6.32 mmol) in formic acid (25 mL) was heated at 100° C. for 3 hours. The solvent was removed by evaporation in vacuo yielding the title compound, which was used without further purification.

reactant | 3-chloro-6-(3,4-dichloro-phenoxy)-pyridazine | 6.32 mmol, 1.74 g | ClC=1N=NC(=CC1)OC1=CC(=C(C=C1)Cl)Cl | C10H5Cl3N2O
reactant | formic acid | 25 mL | C(=O)O | CH2O2
product | 6-(3,4-dichloro-phenoxy)-pyridazin-3-ol | ClC=1C=C(OC2=CC=C(N=N2)O)C=CC1Cl | C10H6Cl2N2O2
